US04407819
In the same manner, α-[(allylamino)methyl]-4-amino-3,5-dichlorobenzyl alcohol is allowed to react with phosgene to afford 5-(4-amino-3,5-dichlorophenyl)-3-allyl-2-oxazolidinone.

reactant | α-[(allylamino)methyl]-4-amino-3,5-dichlorobenzyl alcohol | C(C=C)NCC(C1=CC(=C(C(=C1)Cl)N)Cl)O | C11H14Cl2N2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 5-(4-amino-3,5-dichlorophenyl)-3-allyl-2-oxazolidinone | NC1=C(C=C(C=C1Cl)C1CN(C(O1)=O)CC=C)Cl | C12H12Cl2N2O2
